US05312829
To a mixture of ethyl 4-[3-(4-hydroxybenzoyl)indol-1-yl]butyrate (275 mg), (R)-1-(4-isobutylphenyl)pentan-1-ol (179 mg) and triphenylphosphine (213 mg) in a mixture of tetrahydrofuran and toluene (1:4, 10 ml) was added diethyl azodicarboxylate (0.13 ml) at -25° C. After stirring for 1 hour, the reaction mixture was concentrated in vacuo. The concentrate was chromatographed on silica gel using hexane and ethyl acetate (3:1) to give ethyl (S)-4-[3-[4-[1-(4-isobutylphenyl)pentyloxy]benzoyl]indol-1-yl]butyrate (279 mg).

reactant | ethyl 4-[3-(4-hydroxybenzoyl)indol-1-yl]butyrate | 275 mg | OC1=CC=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1 | C21H21NO4
reactant | (R)-1-(4-isobutylphenyl)pentan-1-ol | 179 mg | C(C(C)C)C1=CC=C(C=C1)[C@@H](CCCC)O | C15H24O
reactant | triphenylphosphine | 213 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.13 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl (S)-4-[3-[4-[1-(4-isobutylphenyl)pentyloxy]benzoyl]indol-1-yl]butyrate | 279 mg | C(C(C)C)C1=CC=C(C=C1)[C@H](CCCC)OC1=CC=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1 | C36H43NO4
